US07812028B2
To a tetrahydrofuran (5 ml) solution of 6-(4-Fluoro-phenyl)-5-piperidin-1-yl-pyrazine-2-carboxylic acid methyl ester (0.48 g, 1.52 mmol, 1.0 eq) was added a solution of lithium hydroxide (1M, 1.52 ml, 1.52 mmol, 1.0 eq) in water. The mixture was stirred overnight at room temperature after which time the resulting solution was acidified with hydrochloric acid (pH˜5) and aqueous phase extracted with ethyl acetate (2×10 ml). The organic phase was dried over magnesium sulfate and concentrated in vacuo to afford 6-(4-fluoro-phenyl)-5-piperidin-1-yl-pyrazine-2-carboxylic acid as white crystals. Yield=0.42 g (91%). 1H NMR (400 MHz, DMSO): δ 1.46-1.53 (6H, m), 3.22-3.25 (4H, m), 7.32 (2H, t, J=8.87 Hz), 7.82-7.86 (2H, m), 8.62 (1H, s).

reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
reactant | 6-(4-Fluoro-phenyl)-5-piperidin-1-yl-pyrazine-2-carboxylic acid methyl ester | 1.52 mmol, 0.48 g, 1.0 eq | COC(=O)C1=NC(=C(N=C1)N1CCCCC1)C1=CC=C(C=C1)F | C17H18FN3O2
reactant | lithium hydroxide | 1.52 mmol, 1M, 1.52 ml, 1.0 eq | [OH-].[Li+]
reactant | hydrochloric acid | pH˜5 | Cl | ClH
solvent | water | O | H2O
product | 6-(4-fluoro-phenyl)-5-piperidin-1-yl-pyrazine-2-carboxylic acid | FC1=CC=C(C=C1)C1=C(N=CC(=N1)C(=O)O)N1CCCCC1 | C16H16FN3O2
